US05286902
Shape Selective Catalysis of 2-methoxy-6-isopropylnaphthalene:
A 450 ml autoclave was charged with 158 g 2-methoxynapthalene and 3.2 g dealuminized mordenite catalyst. The autoclave was pressurized to 670 kPa with propylene then heated to 225° C. with agitation. Propylene was added as it was consumed to maintain pressure. In 8 hours, the conversion was 12% with 34% selectivity to 2-methoxy-6-isopropylnaphthalene (as confirmed by gas chromatography). Repetition of the reaction at 275° C. gave 19% conversion in 3 hours with 31% selectivity.

reactant | 2-methoxynapthalene | 158 g | COC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | propylene | C=CC | C3H6
product | 2-methoxy-6-isopropylnaphthalene | COC1=CC2=CC=C(C=C2C=C1)C(C)C | C14H16O
